US07745462B2
5-n-Butylindan-1-one oxime
Hydroxylamine hydrochloride (0.89 g, 12.8 mmol) and sodium acetate (12.8 mmol) are added to a solution of 5-n-butylindan-1-one (1.0 g, 5.31 mmol) in ethanol (30 ml) and water (3 ml). The reaction is heated to reflux for 20 minutes, then water is added and the mixture is extracted with CH2Cl2. The combined organic extracts are washed with brine, dried (MgSO4) and evaporated to afford the title compound. NMR δH 0.86 (t J 7.3 3H), 1.28 (sextet J 7.3 2H), 1.52 (quintet J 7.3 2H), 2.55 (t J 8.0 2H), 2.85-3.0 (m 4H), 7.0 (d J 8.3 1H), 7.05 (s 1H), 7.45 (d J 8.3 2H)

reactant | Hydroxylamine hydrochloride | 12.8 mmol, 0.89 g | Cl.NO
reactant | sodium acetate | 12.8 mmol | C(C)(=O)[O-].[Na+]
reactant | 5-n-butylindan-1-one | 5.31 mmol, 1.0 g | C(CCC)C=1C=C2CCC(C2=CC1)=O | C13H16O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 5-n-Butylindan-1-one oxime | C(CCC)C=1C=C2CCC(C2=CC1)=NO | C13H17NO
